* c:\users\lenovo\esim-workspace\and_gate\and_gate.cir

.include NMOS-180nm.lib
.include PMOS-180nm.lib

* CMOS AND Gate Transistor Connections
m3 net-_m2-pad3_ bin gnd gnd CMOSN W=100u L=100u M=1
m1 net-_m1-pad1_ ain net-_m1-pad3_ net-_m1-pad1_ CMOSP W=100u L=100u M=1
m4 net-_m1-pad1_ bin net-_m1-pad3_ net-_m1-pad1_ CMOSP W=100u L=100u M=1
m6 net-_m1-pad1_ net-_m1-pad3_ out net-_m1-pad1_ CMOSP W=100u L=100u M=1
m2 net-_m1-pad3_ ain net-_m2-pad3_ net-_m2-pad3_ CMOSN W=100u L=100u M=1
m5 out net-_m1-pad3_ gnd gnd CMOSN W=100u L=100u M=1

* Power Supply
v3 net-_m1-pad1_ gnd  dc 5

* Input Pulses
v2  bin gnd pulse(0 5 0 5n 5n 20m 40m)
v1  ain gnd pulse(0 5 0 5n 5n 40m 80m)

* Transient Analysis
.tran 1e-03 160e-03 0e-09

* Measure Delay Estimation
.measure tran t_rise TRIG V(ain) VAL=2.5 RISE=1 TARG V(out) VAL=2.5 RISE=1
.measure tran t_fall TRIG V(ain) VAL=2.5 FALL=1 TARG V(out) VAL=2.5 FALL=1
.measure tran t_pd PARAM='(t_rise + t_fall)/2'

* Control Statements
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(ain)
plot v(bin)
plot v(out)
echo "Rise time delay: $&t_rise"
echo "Fall time delay: $&t_fall"
echo "Propagation delay: $&t_pd"
.endc

.end
