* c:\users\lenovo\esim-workspace\nanddd\nanddd.cir

.include PMOS-180nm.lib
.include NMOS-180nm.lib
m2 vout ain net-_m2-pad3_ gnd CMOSN W=100u L=100u M=1
m1 net-_m1-pad1_ ain vout net-_m1-pad1_ CMOSP W=100u L=100u M=1
v3 net-_m1-pad1_ gnd  dc 5
m3 net-_m2-pad3_ bin gnd gnd CMOSN W=100u L=100u M=1
v2  bin gnd pulse(0 5 0 5n 5n 20m 40m)
v1  ain gnd pulse(0 5 0 5n 5n 40m 80m)
m4 net-_m1-pad1_ bin vout net-_m1-pad1_ CMOSP W=100u L=100u M=1
* u1  ain plot_v1
* u2  bin plot_v1
* u3  vout plot_v1
.tran 1e-03 160e-03 0e-09

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(ain)
plot v(bin)
plot v(vout)
.endc
.end
