* c:\users\lenovo\esim-workspace\test\test.cir

.include PMOS-180nm.lib
.include NMOS-180nm.lib

m1 out in gnd gnd CMOSN W=100u L=100u M=1
m2 net-_m2-pad1_ in out net-_m2-pad1_ CMOSP W=100u L=100u M=1

v2 net-_m2-pad1_ gnd  dc 5
v1  in gnd pulse(0 5 0 1n 1n 5u 10u)

.tran 1e-06 50e-06 0e-09


* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(in)
plot v(out)


.endc
.end
