* c:\users\lenovo\esim-workspace\or_with_nansd\or_with_nansd.cir

* u2  net-_u2-pad1_ net-_u2-pad1_ net-_u2-pad3_ d_nand
v1  in gnd pulse(0 5 0 5n 5n 40m 80m)
* u3  out plot_v1
* u1  in plot_v1
* u4  in net-_u2-pad1_ adc_bridge_1
* u5  net-_u2-pad3_ out dac_bridge_1
a1 [net-_u2-pad1_ net-_u2-pad1_ ] net-_u2-pad3_ u2
a2 [in ] [net-_u2-pad1_ ] u4
a3 [net-_u2-pad3_ ] [out ] u5
* Schematic Name:                             d_nand, NgSpice Name: d_nand
.model u2 d_nand(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             adc_bridge_1, NgSpice Name: adc_bridge
.model u4 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             dac_bridge_1, NgSpice Name: dac_bridge
.model u5 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
.tran 1e-03 160e-03 0e-09

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(out)
plot v(in)
.endc
.end
